US06638929B2
A mixture of methyl 2-amino-6,7-dimethoxy-3-quinolinecarboxylate (3.60 g, 13.04 mmol) and 4.10 g of dimethylformamide dimethylacetal in 60 mL of toluene containing 40 mg of p-toluenesulfonic acid is heated at reflux for 2 hours. Upon cooling to room temperature a solid formed and is collected by filtration to provide 736 mg of methyl 2-{[(E)-(dimethylamino)methylidene]amino}-6,7-dimethoxy-3-quinolinecarboxylate as an off-white solid, mp 166-168° C.

reactant | methyl 2-amino-6,7-dimethoxy-3-quinolinecarboxylate | 13.04 mmol, 3.60 g | NC1=NC2=CC(=C(C=C2C=C1C(=O)OC)OC)OC | C13H14N2O4
reactant | dimethylformamide dimethylacetal | 4.10 g | COC(N(C)C)OC | C5H13NO2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 60 mL, 40 mg | C1(=CC=CC=C1)C | C7H8
product | methyl 2-{[(E)-(dimethylamino)methylidene]amino}-6,7-dimethoxy-3-quinolinecarboxylate | 736 mg | CN(C)\C=N\C1=NC2=CC(=C(C=C2C=C1C(=O)OC)OC)OC | C16H19N3O4
